US08686150B2
(a) (R)-2-(4-Methoxy-benzylamino)-butyric acid methyl ester
10.0 g of p-methoxybenzaldehyde and 12.98 g of methyl D-homoalaninate-hydrochloride were dissolved in 160 ml of DCM and at 0° C. 11.35 ml of TEA were added. After 10 min at 0° C. 23.36 g of sodium triacetoxyborohydride were added in small portions. The reaction was stirred at r.t. overnight. To the reaction was then added aqueous sodium carbonate solution (10%). The layers were separated and the organic layer was washed with water until neutral, dried over Na2SO4, filtered and concentrated in vacuo. 18.72 g of the title compound were obtained and used without further purification.

reactant | p-methoxybenzaldehyde | 10.0 g | COC1=CC=C(C=O)C=C1 | C8H8O2
reactant | methyl D-homoalaninate-hydrochloride | 12.98 g | Cl.N[C@H](CC)C(=O)OC
reactant | sodium triacetoxyborohydride | 23.36 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | DCM | 160 ml | C(Cl)Cl | CH2Cl2
product | (R)-2-(4-Methoxy-benzylamino)-butyric acid methyl ester | 18.72 g | COC([C@@H](CC)NCC1=CC=C(C=C1)OC)=O | C13H19NO3
